US08076517B2
(R)-3-methoxy-2-methyl-benzoic acid N′-(1-tert-butyl-but-3-enyl)-hydrazide (100 mg, 0.344 mmoles) and (R)-(+)-alpha-methyl-alpha-(trifluoromethyl)-phenylacetyl chloride (104 mg, 0.413 mmoles) were dissolved in 1.5 mL methylene chloride in a vial. A solution of K2CO3 (95 mg, 0.69 mmoles) in ca. 0.5 mL water was added, and the reaction mixture was stirred at room temperature overnight, and monitored by TLC. The phases were separated, adding additional methylene chloride and/or water as needed to aid manipulation. The methylene chloride layer was dried over MgSO4 or Na2SO4, and solvent was removed in vacuo to provide crude product as an oily solid. This residue was triturated with hexanes/ether, whereupon crystallization commenced. Crystallization was allowed to proceed without further disturbance. Isolation from the mother liquor provided 83 mg (16.4%) crystalline (R)-3-methoxy-2-methyl-benzoic acid N′-(1-tert-butyl-but-3-enyl)-N′-((S)-3,3,3-trifluoro-2-methoxy-2-phenyl-propionyl)-hydrazide from which was obtained an X-ray crystal structure. Mp=128-129° C.; [α]25589 +66.40 (c 2.00, CH3OH); 1H NMR (400 MHz, CDCl3) δ 7.5 (d, 2H), 7.2-7.3 (m, 4H), 7.07 (m, 1H), 6.9 (d, 1H), 6.6+6.2 (br, 1H), 5.2 (d, 1H), 5.1 (d, 1H), 4.8 (1H, br), 3.85 (s, 3H), 3.8 (s, 3H), 2.55 (br, 1H), 2.35 (br, 2H), 1.5 (3H), 1.05 (br s, 9H); 13C NMR (100 MHz, CDCl3) δ 168.1, 158.3, 138.7, 134.0, 129.4, 128.0, 126.5, 126.4, 126.3, 124.9, 122.1, 118.0, 117.0, 112.2, 57.3, 55.7, 35.8, 32.0, 28.1, 12.3; HRMS (ESI) m/z calcd for C27H34F3N2O4 [M+H]+ 507.2471, found 507.2463, m/z calcd for C27H33F3N2NaO4 [+Na]+ 529.2290, found 529.2284. Anal. Cald for C27H33F3N2O4: C, 64.02; H, 6.57; F, 11.25; N, 5.53; O, 12.63. Found: C, 63.87; H, 6.71; N, 5.52.

reactant | (R)-3-methoxy-2-methyl-benzoic acid N′-(1-tert-butyl-but-3-enyl)-hydrazide | 0.344 mmoles, 100 mg | C(C)(C)(C)[C@@H](CC=C)NNC(C1=C(C(=CC=C1)OC)C)=O | C17H26N2O2
reactant | (R)-(+)-alpha-methyl-alpha-(trifluoromethyl)-phenylacetyl chloride | 0.413 mmoles, 104 mg | C[C@](C(=O)Cl)(C(F)(F)F)C1=CC=CC=C1 | C10H8ClF3O
reactant | K2CO3 | 0.69 mmoles, 95 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | water | ca. 0.5 mL | O | H2O
product | (R)-3-methoxy-2-methyl-benzoic acid N′-(1-tert-butyl-but-3-enyl)-N′-((S)-3,3,3-trifluoro-2-methoxy-2-phenyl-propionyl)-hydrazide | 83 mg, 16.4% | C(C)(C)(C)[C@@H](CC=C)N(NC(C1=C(C(=CC=C1)OC)C)=O)C([C@](C(F)(F)F)(C1=CC=CC=C1)OC)=O | C27H33F3N2O4
